US05204332
Preparation of 1-(ethoxymethyl)-2-(trifluoromethyl)-pyrrole-3-carbonitrile
A stirred solution of 2-trifluoromethyl-3-cyanopyrrole (1.0 g, 6.2 mmol) in dry tetrahydrofuran is treated with NaH (0.30 g, 7.5 mmol) as a 60% dispersion in mineral oil, under nitrogen, at room temperature. After 20 minutes, the reaction mixture is treated dropwise with a solution of chloromethyl ethyl ether (0.77 g, 8.1 mmol) in dry tetrahydrofuran, stirred vigorously for 3 hours and treated with a mixture of 1N HCl and ethyl acetate. The phases are separated and the organic phase is washed with brine, dried over Mg SO4 and concentrated in vacuo to afford a residue. Flash chromatography of the residue using silica gel and 3.5:1 hexane: ethyl acetate yields the title compound as a pale yellow oil, 0.83 g (61%).

reactant | 2-trifluoromethyl-3-cyanopyrrole | 6.2 mmol, 1.0 g | FC(C=1NC=CC1C#N)(F)F | C6H3F3N2
reactant | NaH | 7.5 mmol, 0.30 g | [H-].[Na+]
reactant | chloromethyl ethyl ether | 8.1 mmol, 0.77 g | C(C)OCCl | C3H7ClO
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 1-(ethoxymethyl)-2-(trifluoromethyl)-pyrrole-3-carbonitrile | C(C)OCN1C(=C(C=C1)C#N)C(F)(F)F | C9H9F3N2O
